US05446189
A solution of 1.44 g (2.6 mmol) of N-(2-methoxy-2-oxoethyl)-N-[3-nitro-5-(octadecyloxy) phenyl]glycine methylester and 15 ml of 1N NaOH in 65 ml of methanol, 10 ml of dioxane and 20 mlof water was stirred reflux for 5 hours. The solvents were removed at reduced pressure and the residue was dissolved in 400 ml of hot water. After cooling to room temperature, 6N HCl was added to acidify and the resultant precipitate was filtered. Purification by chromatography on 40 gof silica gel using 20% methanol-chloroform gave 1.1 g (81% yield, mp 131°-134°) of N -(carboxymethyl)-N-[3-nitro-5-(octadecyloxy)phenyl]glycine.

reactant | N-(2-methoxy-2-oxoethyl)-N-[3-nitro-5-(octadecyloxy) phenyl]glycine methylester | 2.6 mmol, 1.44 g | COC(CN(C1=CC(=CC(=C1)OCCCCCCCCCCCCCCCCCC)[N+](=O)[O-])CC(=O)OC)=O | C30H50N2O7
reactant | NaOH | 1N, 15 ml | [OH-].[Na+]
reactant | water | O | H2O
solvent | methanol | 65 ml | CO | CH4O
solvent | dioxane | 10 ml | O1CCOCC1 | C4H8O2
product | N -(carboxymethyl)-N-[3-nitro-5-(octadecyloxy)phenyl]glycine | 1.1 g, 81% yield | C(=O)(O)CN(CC(=O)O)C1=CC(=CC(=C1)OCCCCCCCCCCCCCCCCCC)[N+](=O)[O-] | C28H46N2O7
